data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5135,5830,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[N+:17]([CH3:18])[C-:19]([C:20](=[O:21])[NH:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20](=[O:21])[NH:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,40.13759412241416,-13.932719824491825
992,1081,[CH3:13][C:14](=[O:15])[C:16]([CH3:17])=[N+:18]([CH3:19])[C-:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:14]([CH3:13])=[O:15])([CH3:17])[N:18]([CH3:19])[C:20]2([C:21]#[N:22])[C:23]#[N:24],water,298.15,32.778429794365024,-3.252175333120799
3707,4233,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([C:14]([CH3:15])=[O:16])[o:17][c:18]1=[O:19]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]2([C:9]([O:8][CH3:7])=[O:10])[NH:12][C:13]1([C:14]([CH3:15])=[O:16])[O:17][C:18]2=[O:19],water,298.15,28.206554999952413,3.50611105300308
5121,5814,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24]#[N:25])[C:26](=[O:27])[NH:28][CH3:29]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]([C:24]#[N:25])([C:26](=[O:27])[NH:28][CH3:29])[NH:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,28.48855063261552,0.5890738622673888
2616,2899,[CH3:19][NH:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([CH3:26])[C:27](=[O:28])[O:29][CH3:30])[C:31](=[O:32])[NH:33][CH3:34].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([CH3:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([CH3:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([CH3:26])([C:27](=[O:28])[O:29][CH3:30])[NH:24][C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:31](=[O:32])[NH:33][CH3:34],water,298.15,24.019359356901308,-36.58776502638096
3509,4001,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([CH3:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([CH3:14])([C:15](=[O:16])[O:17][CH3:18])[N:12]=[C:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,14.658348989883187,-30.80000027979667
154,171,[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[NH-:10][N+:11]#[C:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[F:1][C:2]12[C:3]([F:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[NH:10][N:11]=[C:12]2[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,16.110139505779937,-59.23889675474364
3499,3990,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[c:9]1[o:10][c:11](=[O:12])[c-:13]([C:14](=[O:15])[O:16][CH3:17])[o+:18]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]2([C:14](=[O:15])[O:16][CH3:17])[C:11](=[O:12])[O:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[O:18]2,water,298.15,13.395354525803578,-27.00352162112675
4418,5050,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])([C:21]([CH3:22])=[O:23])[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,11.747992698873196,-29.43903946634928
2035,2258,[CH3:13][C:14](=[O:15])[c:16]1[nH+:17][c-:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[c:25](=[O:26])[o:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]1([C:14]([CH3:13])=[O:15])[NH:17][C:18]2([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[C:25](=[O:26])[O:27]1,water,298.15,26.84044914456232,8.808971793083721
2738,3043,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[c-:28]1[c:29](=[O:30])[o:31][c:32]([C:33]([CH3:34])=[O:35])[n+:36]1[CH3:37]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]1([C:26]([O:25][CH3:24])=[O:27])[C:29](=[O:30])[O:31][C:32]2([C:33]([CH3:34])=[O:35])[N:36]1[CH3:37],water,298.15,25.32778297956993,-8.160148136882611
